US06518423B1
2-(6-Methyl-2-nitrophenyl)thio-3-chloropyrazine
To a solution of 1.254 g of 6-methyl-2-nitrobenzenethiol in tetrahydrofuran (10 ml) was added 0.326 g of sodium hydride under ice-cooling in a nitrogen atmosphere. After stirring for 10 minutes, 1.67 g of dichloropyrazine was added thereto and the resulting mixture was stirred at room temperature for 1 hour and heated under reflux for 1.5 hour. Then the reaction mixture was poured into a saturated aqueous solution of sodium dihydrogenphosphate and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure. Then the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 0.737 g of the title compound as a red oily substance.

reactant | 6-methyl-2-nitrobenzenethiol | 1.254 g | CC1=CC=CC(=C1S)[N+](=O)[O-] | C7H7NO2S
reactant | sodium hydride | 0.326 g | [H-].[Na+]
reactant | dichloropyrazine | 1.67 g | ClC=1C(=NC=CN1)Cl | C4H2Cl2N2
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(6-Methyl-2-nitrophenyl)thio-3-chloropyrazine | 0.737 g | CC1=CC=CC(=C1SC1=NC=CN=C1Cl)[N+](=O)[O-] | C11H8ClN3O2S
